US06982348B2
6) (2RS,3RS)-3-hydroxy-3-[4-(pyridin-2-yloxy)phenyl]-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid
To a solution of benzyl (2RS,3RS)-3-hydroxy-3-[4-(pyridin-2-yloxy)phenyl]-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate (4.99 g, 8.95 mmol) in ethanol (500 ml) was added 10% palladium/carbon (containing water by 50%, 500 mg), and the mixture was stirred under a 1 atm hydrogen stream for 2 hrs. The reaction solution was filtered with celite and the filtrate was concentrated to give the objective substance (4.50 g, 100%, crude). The present compound was used for the next reaction as a crude compound.

reactant | benzyl (2RS,3RS)-3-hydroxy-3-[4-(pyridin-2-yloxy)phenyl]-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate | 8.95 mmol, 4.99 g | OC(C(C(=O)OCC1=CC=CC=C1)CC1=CC(=CC=C1)OC(C(F)F)(F)F)C1=CC=C(C=C1)OC1=NC=CC=C1 | C30H25F4NO5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 500 mg | [Pd] | Pd
product | (2RS,3RS)-3-hydroxy-3-[4-(pyridin-2-yloxy)phenyl]-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid | OC(C(C(=O)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F)C1=CC=C(C=C1)OC1=NC=CC=C1 | C23H19F4NO5
